US07365174B2
In a volume of 2 ml of 2-aminoethanol was dissolved in a mixed solvent of 150 ml of tetrahydrofuran and 150 ml of water, and added with 10 ml of 5 N aqueous sodium hydroxide and 10.8 g of di-tert-butyl dicarbonate, and the mixture was stirred at room temperature for 4.5 hours. The reaction mixture was adjusted to pH 7 by using 5 N hydrochloric acid, and then added with 300 ml of ethyl acetate, and the organic layer and the aqueous layer were separated. The aqueous layer was extracted twice with 50 ml of ethyl acetate, and then the organic layers were combined, and washed with 200 ml of 25% brine. The organic layer was dried over anhydrous sodium sulfate, and then filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate (1:2)) to obtain 4.68 g of 2-(tert-butoxycarbonylamino)ethanol. Physicochemical Properties of this Compound

reactant | sodium hydroxide | 5 N, 10 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-aminoethanol | 2 ml | NCCO | C2H7NO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 2-(tert-butoxycarbonylamino)ethanol | 4.68 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
